US08497265B2
To a solution of 2-(4-((3-(piperazin-1-yl)pyrazin-2-yl)oxy)piperidin-1-yl)quinoline (130 mg, 0.33 mmol) in dry DCM (10 mL) was added Et3N (1 mL). The reaction mixture was cooled to 0° C. with an ice bath, and acetyl chloride (80 mg, 0.66 mmol) was added dropped to the reaction mixture. 1 hour later, the reaction mixture was warmed to RT, and stirred overnight. Then the reaction mixture was washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum to give the crude product. The crude product was purified via flash chromatography on silica gel (20% to 45% EtOAc in petroleum ether) to give 1-(4-(3-((1-(quinolin-2-yl)piperidin-4-yl)oxy)pyrazin-2-yl)piperazin-1-yl)ethanone (108 mg, 0.25 mmol, 78% yield) as a white solid. ESI-MS (M+1): 433 calc. for C24H28N6O2 432.

reactant | 2-(4-((3-(piperazin-1-yl)pyrazin-2-yl)oxy)piperidin-1-yl)quinoline | 0.33 mmol, 130 mg | N1(CCNCC1)C=1C(=NC=CN1)OC1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C22H26N6O
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.66 mmol, 80 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(3-((1-(quinolin-2-yl)piperidin-4-yl)oxy)pyrazin-2-yl)piperazin-1-yl)ethanone | 0.25 mmol, 108 mg, 78% yield | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)OC=1C(=NC=CN1)N1CCN(CC1)C(C)=O | C24H28N6O2
